US07262169B1
Step 4: Fluorenylmethyl Glutarate Pentafluorophenyl Ester
Fluorenylmethyl glutarate (2.5 kg) and pentafluorophenol (1.63 kg) were dissolved in ethyl acetate (25 L). The solution was treated with a solution of dicyclohexylcarbodiimide (1.83 kg) in ethyl acetate (7.5 L) and the mixture was stirred at 20° C. overnight. The resulting slurry was filtered and the solids were washed through with ethyl acetate (10 L). The filtrate was evaporated at atmospheric pressure to a volume of 7.5 L and diluted with hexane (75 L). The slurry was filtered at 60–65° C. then allowed to cool to room temperature and stirred overnight. The slurry was cooled to 0° C. for 1 hour, the solid collected by filtration and washed with 10:1 hexane/ethyl acetate (15 L). The solid was dried in vacuo at 45° C. to afford the title compound as a white crystalline solid. Yield: 3.553 kg, 93%. HPLC; >99 A %.

reactant | Fluorenylmethyl glutarate | 2.5 kg | C(CCCC(=O)[O-])(=O)OCC1=CC=CC=2C3=CC=CC=C3CC12
reactant | pentafluorophenol | 1.63 kg | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | dicyclohexylcarbodiimide | 1.83 kg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | ethyl acetate | 25 L | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 7.5 L | C(C)(=O)OCC | C4H8O2
product | Fluorenylmethyl Glutarate Pentafluorophenyl Ester | FC1=C(C(=C(C(=C1OC(CCCC(=O)OCC1=CC=CC=2C3=CC=CC=C3CC12)=O)F)F)F)F | C25H17F5O4
